*$
*//-----------------------------------------------------------------------//
*//   Part        : EMVY500ARA220MF55G
*//   Date        : 2021/09/24 
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMVY500ARA220MF55G_20deg-C 1 2

C1 4 2 1.55e-06
C2 5 2 1.37e-05
C3 6 2 6.13e-06
R1 3 4 9.73e-01
R2 4 5 2.43e-01
R3 5 6 2.16e+00
L1 1 3 2.20e-09

.ENDS

.SUBCKT EMVY500ARA220MF55G_-55deg-C 1 2

C1 4 2 4.34e-08
C2 5 2 4.31e-06
C3 6 2 1.41e-05
R1 3 4 9.68e+00
R2 4 5 5.60e+00
R3 5 6 4.50e+00
L1 1 3 2.20e-09

.ENDS

.SUBCKT EMVY500ARA220MF55G_105deg-C 1 2

C1 4 2 6.03e-06
C2 5 2 1.35e-05
C3 6 2 3.40e-06
R1 3 4 3.23e-01
R2 4 5 7.57e-02
R3 5 6 2.36e+00
L1 1 3 2.20e-09

.ENDS
*$
