*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZA350ARA100ME61G
*//   Date        : 2022/05/20
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZA350ARA100ME61G_20deg-C 1 2

C1 4 2 2.46e-06
C2 5 2 5.45e-06
C3 6 2 1.46e-06
R1 3 4 4.62e-01
R2 4 5 9.93e-02
R3 5 6 1.76e+00
L1 1 3 1.80e-09

.ENDS
*$