*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZA160ARA101MF61G
*//   Date        : 2022/06/20
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZA160ARA101MF61G_20deg-C 1 2

C1 4 2 6.84e-06
C2 5 2 3.11e-05
C3 6 2 5.83e-05
R1 3 4 2.71e-01
R2 4 5 5.15e-02
R3 5 6 1.22e-01
L1 1 3 2.80e-09

.ENDS
*$