*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZA350ARA330MF61G
*//   Date        : 2024/05/07
*//   Temperature : 20deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZA350ARA330MF61G_20deg-C 1 2

C1 4 2 3.51e-06
C2 5 2 2.04e-05
C3 6 2 6.72e-06
R1 3 4 2.63e-01
R2 4 5 7.64e-02
R3 5 6 5.25e-01
L1 1 3 2.60e-09

.ENDS
*$
