*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZA350ARA470MF61G
*//   Date        : 2024/05/07
*//   Temperature : 20deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZA350ARA470MF61G_20deg-C 1 2

C1 4 2 8.46e-06
C2 5 2 2.55e-05
C3 6 2 8.02e-06
R1 3 4 3.25e-01
R2 4 5 1.01e-01
R3 5 6 1.34e+00
L1 1 3 2.60e-09

.ENDS
*$
