*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZA250ARA221MHA0G
*//   Date        : 2024/8/22
*//   Version     : 1.0
*//   Comment     : U24C010216
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C/-55deg-C/105deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZA250ARA221MHA0G_20deg-C 1 2

C1 4 2 5.78e-06
C2 5 2 9.97e-05
C3 6 2 1.02e-04
R1 3 4 7.98e-02
R2 4 5 3.78e-02
R3 5 6 5.78e-02
L1 1 3 3.60e-09

.ENDS

.SUBCKT EMZA250ARA221MHA0G_-55deg-C 1 2

C1 4 2 6.47e-07
C2 5 2 3.23e-05
C3 6 2 1.58e-04
R1 3 4 1.09e+00
R2 4 5 2.94e-01
R3 5 6 4.10e-01
L1 1 3 3.60e-09

.ENDS


.SUBCKT EMZA250ARA221MHA0G_105deg-C 1 2

C1 4 2 7.45e-05
C2 5 2 1.43e-04
C3 6 2 1.35e-05
R1 3 4 4.13e-02
R2 4 5 2.22e-02
R3 5 6 4.29e+01
L1 1 3 3.60e-09

.ENDS
*$
