*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZA250ARA331MHA0G
*//   Date        : 2022/11/14
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZA250ARA331MHA0G_20deg-C 1 2

C1 4 2 1.75e-05
C2 5 2 1.99e-04
C3 6 2 7.40e-05
R1 3 4 8.51e-02
R2 4 5 3.47e-02
R3 5 6 1.50e-01
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMZA250ARA331MHA0G_-55deg-C 1 2

C1 4 2 1.49e-05
C2 5 2 6.18e-05
C3 6 2 1.23e-04
R1 3 4 1.26e+00
R2 4 5 1.86e-01
R3 5 6 3.72e-01
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMZA250ARA331MHA0G_105deg-C 1 2

C1 4 2 1.72e-05
C2 5 2 2.57e-04
C3 6 2 2.43e-05
R1 3 4 2.83e-02
R2 4 5 2.20e-02
R3 5 6 2.48e-01
L1 1 3 4.00e-09

.ENDS
*$