*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZA350ARA101MHA0G
*//   Date        : 2024/6/21
*//   Version     : 1.0
*//   Comment     : U24C010165
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZA350ARA101MHA0G_20deg-C 1 2

C1 4 2 6.08e-07
C2 5 2 7.52e-05
C3 6 2 2.39e-05
R1 3 4 2.45e-02
R2 4 5 9.86e-02
R3 5 6 2.40e-01
L1 1 3 3.60e-09

.ENDS
*$
