*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZE350ARA101MHA0G
*//   Date        : 2022/05/12
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZE350ARA101MHA0G_20deg-C 1 2

C1 4 2 8.49e-06
C2 5 2 4.72e-05
C3 6 2 3.64e-05
R1 3 4 1.61e-01
R2 4 5 3.62e-02
R3 5 6 7.41e-02
L1 1 3 3.60e-09

.ENDS
*$