*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZJ350ARA680MF61G
*//   Date        : 2023/06/13
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZJ350ARA680MF61G_20deg-C 1 2

C1 4 2 1.59e-05
C2 5 2 2.31e-05
C3 6 2 1.74e-05
R1 3 4 1.74e-01
R2 4 5 7.02e-02
R3 5 6 1.40e-02
L1 1 3 2.80e-09

.ENDS
*$