*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZJ250ARA471MJA0G
*//   Date        : 2023/06/28
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2023 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZJ250ARA471MJA0G_20deg-C 1 2

C1 4 2 2.03e-05
C2 5 2 3.57e-04
C3 6 2 7.01e-05
R1 3 4 3.38e-02
R2 4 5 2.27e-02
R3 5 6 1.27e-01
L1 1 3 4.50e-09

.ENDS
*$