*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZL250ARA221MHA0G
*//   Date        : 2022/11/14
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZL250ARA221MHA0G_20deg-C 1 2

C1 4 2 1.96e-05
C2 5 2 1.27e-04
C3 6 2 6.79e-05
R1 3 4 6.81e-02
R2 4 5 3.89e-02
R3 5 6 1.03e-01
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMZL250ARA221MHA0G_-55deg-C 1 2

C1 4 2 5.68e-06
C2 5 2 3.01e-05
C3 6 2 6.00e-05
R1 3 4 8.72e-01
R2 4 5 1.43e-01
R3 5 6 3.08e-01
L1 1 3 4.00e-09

.ENDS

.SUBCKT EMZL250ARA221MHA0G_105deg-C 1 2

C1 4 2 4.28e-06
C2 5 2 1.84e-04
C3 6 2 4.17e-05
R1 3 4 2.87e-03
R2 4 5 4.04e-02
R3 5 6 1.05e-01
L1 1 3 4.00e-09

.ENDS
*$