*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZL350ARA561MJA0G
*//   Date        : 2022/01/07 
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZL350ARA561MJA0G_20deg-C 1 2

C1 4 2 1.28e-04
C2 5 2 3.46e-04
C3 6 2 2.62e-05
R1 3 4 4.60e-02
R2 4 5 2.04e-02
R3 5 6 1.97e+01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZL350ARA561MJA0G_-55deg-C 1 2

C1 4 2 2.15e-06
C2 5 2 7.44e-05
C3 6 2 3.68e-04
R1 3 4 3.57e-01
R2 4 5 9.87e-02
R3 5 6 2.30e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZL350ARA561MJA0G_105deg-C 1 2

C1 4 2 1.43e-04
C2 5 2 3.58e-04
C3 6 2 5.44e-05
R1 3 4 2.66e-02
R2 4 5 9.56e-03
R3 5 6 2.46e+00
L1 1 3 4.50e-09

.ENDS
*$
