*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZR350ARA101MF61G
*//   Date        : 2020/12/23
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZR350ARA101MF61G_20deg-C 1 2

C1 4 2 2.81e-05
C2 5 2 4.88e-05
C3 6 2 1.10e-05
R1 3 4 2.45e-01
R2 4 5 1.37e-01
R3 5 6 2.42e+00
L1 1 3 2.80e-09

.ENDS

.SUBCKT EMZR350ARA101MF61G_-55deg-C 1 2

C1 4 2 1.91e-06
C2 5 2 1.80e-05
C3 6 2 5.38e-05
R1 3 4 5.04e+00
R2 4 5 9.28e-01
R3 5 6 3.37e+00
L1 1 3 2.80e-09

.ENDS

.SUBCKT EMZR350ARA101MF61G_105deg-C 1 2

C1 4 2 8.14e-05
C2 5 2 1.14e-05
C3 6 2 4.15e-06
R1 3 4 9.66e-02
R2 4 5 7.26e-01
R3 5 6 1.67e+01
L1 1 3 2.80e-09

.ENDS
*$
