*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZR350ARA151MF80G
*//   Date        : 2020/12/23
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZR350ARA151MF80G_20deg-C 1 2

C1 4 2 5.12e-05
C2 5 2 6.93e-05
C3 6 2 1.86e-05
R1 3 4 1.48e-01
R2 4 5 8.96e-02
R3 5 6 1.27e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMZR350ARA151MF80G_-55deg-C 1 2

C1 4 2 4.51e-06
C2 5 2 2.87e-05
C3 6 2 8.35e-05
R1 3 4 2.85e+00
R2 4 5 4.97e-01
R3 5 6 2.03e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMZR350ARA151MF80G_105deg-C 1 2

C1 4 2 1.39e-04
C2 5 2 1.06e-05
C3 6 2 5.69e-06
R1 3 4 6.67e-02
R2 4 5 1.33e+00
R3 5 6 2.73e+01
L1 1 3 3.00e-09

.ENDS
*$
