*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZR500ARA101MF80G
*//   Date        : 2020/09/02
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZR500ARA101MF80G_20deg-C 1 2

C1 4 2 2.38e-05
C2 5 2 5.80e-05
C3 6 2 1.03e-05
R1 3 4 2.68e-01
R2 4 5 1.35e-01
R3 5 6 5.12e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMZR500ARA101MF80G_-55deg-C 1 2

C1 4 2 1.17e-07
C2 5 2 1.38e-05
C3 6 2 6.27e-05
R1 3 4 2.61e+00
R2 4 5 1.71e+00
R3 5 6 2.21e+00
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMZR500ARA101MF80G_105deg-C 1 2

C1 4 2 6.60e-05
C2 5 2 2.74e-05
C3 6 2 6.30e-06
R1 3 4 1.04e-01
R2 4 5 1.62e-01
R3 5 6 1.30e+01
L1 1 3 3.00e-09

.ENDS
*$
