*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EMZR250ARA471MHA0G
*//   Date        : 2018/02/08
*//   Update 	  : 2018/06/15 Added SPICE model (-55deg.C/105deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZR250ARA471MHA0G_20deg-C 1 2

C1 4 2 1.13e-04
C2 5 2 2.74e-04
C3 6 2 1.20e-04
R1 3 4 7.06e-02
R2 4 5 2.99e-02
R3 5 6 3.85e-01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZR250ARA471MHA0G_-55deg-C 1 2

C1 4 2 6.45e-06
C2 5 2 1.13e-04
C3 6 2 2.90e-04
R1 3 4 8.62e-01
R2 4 5 1.84e-01
R3 5 6 7.09e-01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZR250ARA471MHA0G_105deg-C 1 2

C1 4 2 1.83e-04
C2 5 2 3.09e-04
C3 6 2 5.50e-05
R1 3 4 3.25e-02
R2 4 5 1.60e-02
R3 5 6 7.92e-01
L1 1 3 3.90e-09

.ENDS
*$
