*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZR350ARA331MHA0G
*//   Date        : 2020/12/23
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZR350ARA331MHA0G_20deg-C 1 2

C1 4 2 1.09e-04
C2 5 2 2.16e-04
C3 6 2 2.22e-05
R1 3 4 6.76e-02
R2 4 5 3.52e-02
R3 5 6 1.01e+01
L1 1 3 3.90e-09

.ENDS

.SUBCKT EMZR350ARA331MHA0G_-55deg-C 1 2

C1 4 2 1.50e-06
C2 5 2 6.87e-05
C3 6 2 2.33e-04
R1 3 4 6.24e-01
R2 4 5 2.04e-01
R3 5 6 4.39e-01
L1 1 3 3.00e-09

.ENDS

.SUBCKT EMZR350ARA331MHA0G_105deg-C 1 2

C1 4 2 2.91e-04
C2 5 2 6.15e-05
C3 6 2 1.93e-05
R1 3 4 3.32e-02
R2 4 5 9.88e-02
R3 5 6 4.38e+00
L1 1 3 3.90e-09

.ENDS
*$
