*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZS250ARA821MJA0G
*//   Date        : 2024/6/21
*//   Version     : 1.0
*//   Comment     : U24C010164
*//   Simulator   : P-Spice
*//   Temperature : 20deg-C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZS250ARA821MJA0G_20deg-C 1 2

C1 4 2 2.30e-04
C2 5 2 4.17e-04
C3 6 2 3.89e-05
R1 3 4 4.25e-02
R2 4 5 2.29e-02
R3 5 6 5.14e-02
L1 1 3 4.50e-09

.ENDS
*$
