*$
*//-----------------------------------------------------------------------//
*//   Part        : EMZS350ARA681MJA0G
*//   Date        : 2021/01/15
*//   Temperature : 20deg.C/-55deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2021 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZS350ARA681MJA0G_20deg-C 1 2

C1 4 2 1.95e-04
C2 5 2 3.77e-04
C3 6 2 3.91e-05
R1 3 4 5.09e-02
R2 4 5 2.51e-02
R3 5 6 1.26e+01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZS350ARA681MJA0G_-55deg-C 1 2

C1 4 2 3.51e-06
C2 5 2 9.41e-05
C3 6 2 4.41e-04
R1 3 4 3.74e-01
R2 4 5 7.40e-02
R3 5 6 2.36e-01
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZS350ARA681MJA0G_105deg-C 1 2

C1 4 2 5.29e-04
C2 5 2 1.27e-04
C3 6 2 5.05e-05
R1 3 4 3.14e-02
R2 4 5 1.79e-01
R3 5 6 1.16e+01
L1 1 3 4.50e-09

.ENDS
*$
