*$
*//-----------------------------------------------------------------------//
*//   Part	No.          : EMZT250ARA122MJA0G
*//   Date 	: 2024/3/29
*//   Version	: 1.0
*//   Comment 	: 
*//   Simulator 	: P-Spice
*//   Temperature 	: 20deg-C/-55deg-C/105deg-C
*//   Model       	: RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZT250ARA122MJA0G_20deg-C 1 2

C1 4 2 2.46e-04
C2 5 2 8.47e-04
C3 6 2 8.12e-05
R1 3 4 4.56e-02
R2 4 5 2.08e-02
R3 5 6 2.47e-02
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZT250ARA122MJA0G_-55deg-C 1 2

C1 4 2 1.10e-06
C2 5 2 1.80e-04
C3 6 2 7.00e-04
R1 3 4 2.90e-01
R2 4 5 1.70e-01
R3 5 6 2.20e-01
L1 1 3 4.50e-09

.ENDS


.SUBCKT EMZT250ARA122MJA0G_105deg-C 1 2

C1 4 2 5.90e-04
C2 5 2 4.42e-04
C3 6 2 2.24e-04
R1 3 4 3.11e-02
R2 4 5 1.24e-02
R3 5 6 3.74e-01
L1 1 3 4.50e-09

.ENDS
*$
