*$
*//-----------------------------------------------------------------------//
*//   Part	No.          : EMZT350ARA821MJA0G
*//   Date		: 2024/3/29
*//   Version	: 1.0
*//   Comment	: 
*//   Simulator	: P-Spice
*//   Temperature 	: 20deg-C/-55deg-C/105deg-C
*//   Model       	: RC-ladder 7 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EMZT350ARA821MJA0G_20deg-C 1 2

C1 4 2 1.97e-04
C2 5 2 5.20e-04
C3 6 2 5.39e-05
R1 3 4 4.87e-02
R2 4 5 2.12e-02
R3 5 6 3.26e-02
L1 1 3 4.50e-09

.ENDS

.SUBCKT EMZT350ARA821MJA0G_-55deg-C 1 2

C1 4 2 2.00e-06
C2 5 2 1.00e-04
C3 6 2 5.30e-04
R1 3 4 3.80e-01
R2 4 5 8.00e-02
R3 5 6 2.50e-01
L1 1 3 4.50e-09

.ENDS


.SUBCKT EMZT350ARA821MJA0G_105deg-C 1 2

C1 4 2 3.56e-04
C2 5 2 3.53e-04
C3 6 2 1.24e-04
R1 3 4 3.27e-02
R2 4 5 1.26e-02
R3 5 6 4.24e-02
L1 1 3 4.50e-09

.ENDS
*$
