*$
*//-----------------------------------------------------------------------//
*//   Part        : ECHA201VSN681MQ35S
*//   Date        : 2022/09/13
*//   Temperature : 20deg.C/60deg.C/105deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT ECHA201VSN681MQ35S_20deg-C 1 2

C1 4 2 5.11e-04
C2 5 2 6.78e-05
C3 6 2 1.61e-05
R1 3 4 1.63e-01
R2 4 5 4.76e-01
R3 5 6 2.50e+01
L1 1 3 3.40e-09

.ENDS

.SUBCKT ECHA201VSN681MQ35S_60deg-C 1 2

C1 4 2 5.89e-04
C2 5 2 2.77e-06
C3 6 2 1.80e-05
R1 3 4 4.12e-02
R2 4 5 7.89e-01
R3 5 6 2.20e+01
L1 1 3 3.40e-09

.ENDS

.SUBCKT ECHA201VSN681MQ35S_105deg-C 1 2

C1 4 2 5.48e-04
C2 5 2 6.73e-05
C3 6 2 1.79e-05
R1 3 4 2.51e-02
R2 4 5 1.84e-01
R3 5 6 5.52e+01
L1 1 3 3.40e-09

.ENDS
*$