*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHE451VSN661MA35Z
*//   Date		: 2024/03/13
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/0deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHE451VSN661MA35Z_20deg-C 1 2
C1 4 2 1.43e-05
C2 5 2 4.39e-04
C3 6 2 1.46e-04
C4 7 2 1.34e-05
R1 3 4 1.58e-01
R2 4 5 1.15e-01
R3 5 6 9.01e-01
R4 6 7 5.00e+02
L1 1 3 6.00e-09
.ENDS


.SUBCKT EKHE451VSN661MA35Z_-40deg-C 1 2
C1 4 2 8.39e-07
C2 5 2 3.13e-06
C3 6 2 4.15e-05
C4 7 2 3.43e-04
R1 3 4 1.09e+00
R2 4 5 2.22e+01
R3 5 6 3.10e+01
R4 6 7 1.75e+01
L1 1 3 6.00e-09
.ENDS


.SUBCKT EKHE451VSN661MA35Z_0deg-C 1 2
C1 4 2 4.99e-06
C2 5 2 2.90e-04
C3 6 2 2.66e-04
C4 7 2 4.17e-05
R1 3 4 3.48e-01
R2 4 5 5.83e-01
R3 5 6 7.13e-01
R4 6 7 5.00e+01
L1 1 3 6.00e-09
.ENDS


.SUBCKT EKHE451VSN661MA35Z_60deg-C 1 2
C1 4 2 4.97e-04
C2 5 2 1.12e-04
C3 6 2 1.28e-05
C4 7 2 1.24e-05
R1 3 4 6.98e-02
R2 4 5 3.33e-01
R3 5 6 6.83e+01
R4 6 7 5.00e+02
L1 1 3 6.00e-09
.ENDS


.SUBCKT EKHE451VSN661MA35Z_105deg-C 1 2
C1 4 2 4.25e-04
C2 5 2 2.00e-04
C3 6 2 1.64e-05
C4 7 2 1.37e-05
R1 3 4 4.09e-02
R2 4 5 1.53e-01
R3 5 6 6.83e+01
R4 6 7 5.00e+02
L1 1 3 6.00e-09
.ENDS

*$
