*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHE451VSN211MQ25Z
*//   Date		: 2024/03/11
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/0deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHE451VSN211MQ25Z_20deg-C 1 2
C1 4 2 4.74e-06
C2 5 2 1.52e-04
C3 6 2 3.79e-05
C4 7 2 5.46e-06
R1 3 4 4.18e-01
R2 4 5 3.53e-01
R3 5 6 4.00e+00
R4 6 7 5.00e+02
L1 1 3 4.00e-09
.ENDS


.SUBCKT EKHE451VSN211MQ25Z_-40deg-C 1 2
C1 4 2 2.66e-07
C2 5 2 9.14e-07
C3 6 2 1.17e-05
C4 7 2 1.15e-04
R1 3 4 4.99e+00
R2 4 5 7.02e+01
R3 5 6 1.06e+02
R4 6 7 6.05e+01
L1 1 3 4.00e-09
.ENDS


.SUBCKT EKHE451VSN211MQ25Z_0deg-C 1 2
C1 4 2 1.41e-06
C2 5 2 1.24e-04
C3 6 2 6.56e-05
C4 7 2 6.99e-06
R1 3 4 9.62e-01
R2 4 5 2.15e+00
R3 5 6 5.57e+00
R4 6 7 5.00e+02
L1 1 3 4.00e-09
.ENDS


.SUBCKT EKHE451VSN211MQ25Z_60deg-C 1 2
C1 4 2 2.26e-05
C2 5 2 1.53e-04
C3 6 2 2.50e-05
C4 7 2 6.68e-06
R1 3 4 1.18e-01
R2 4 5 3.57e-02
R3 5 6 1.74e+00
R4 6 7 5.00e+02
L1 1 3 4.00e-09
.ENDS


.SUBCKT EKHE451VSN211MQ25Z_105deg-C 1 2
C1 4 2 1.76e-04
C2 5 2 2.67e-05
C3 6 2 6.83e-06
C4 7 2 5.76e-06
R1 3 4 6.25e-02
R2 4 5 4.00e-01
R3 5 6 6.77e+01
R4 6 7 1.10e+03
L1 1 3 4.00e-09
.ENDS

*$
