*$
*//-----------------------------------------------------------------------//
*//   Part	No.	: EKHE451VSN331MQ35Z
*//   Date		: 2024/03/12
*//   Version	: 1.0 
*//   Comment	: 
*//   Simulator	: P-Spice 
*//   Temperature 	: 20deg-C/-40deg-C/0deg-C/60deg-C/105deg-C
*//   Model	: RC-ladder 9 Elements Model
*//   Copyright (C) 2024 Nippon Chemi-con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EKHE451VSN331MQ35Z_20deg-C 1 2
C1 4 2 7.22e-06
C2 5 2 2.32e-04
C3 6 2 6.41e-05
C4 7 2 8.27e-06
R1 3 4 2.52e-01
R2 4 5 2.02e-01
R3 5 6 2.43e+00
R4 6 7 5.00e+02
L1 1 3 6.62e-10
.ENDS


.SUBCKT EKHE451VSN331MQ35Z_-40deg-C 1 2
C1 4 2 3.48e-07
C2 5 2 8.28e-07
C3 6 2 9.01e-06
C4 7 2 1.77e-04
R1 3 4 1.26e+00
R2 4 5 2.75e+01
R3 5 6 5.43e+01
R4 6 7 4.19e+01
L1 1 3 6.62e-10
.ENDS


.SUBCKT EKHE451VSN331MQ35Z_0deg-C 1 2
C1 4 2 2.25e-06
C2 5 2 1.24e-04
C3 6 2 1.59e-04
C4 7 2 1.39e-05
R1 3 4 5.45e-01
R2 4 5 1.17e+00
R3 5 6 8.21e-01
R4 6 7 5.00e+02
L1 1 3 6.62e-10
.ENDS


.SUBCKT EKHE451VSN331MQ35Z_60deg-C 1 2
C1 4 2 1.32e-05
C2 5 2 2.60e-04
C3 6 2 3.74e-05
C4 7 2 1.09e-05
R1 3 4 6.84e-02
R2 4 5 2.26e-02
R3 5 6 1.25e+00
R4 6 7 3.00e+02
L1 1 3 6.62e-10
.ENDS


.SUBCKT EKHE451VSN331MQ35Z_105deg-C 1 2
C1 4 2 2.89e-04
C2 5 2 2.62e-05
C3 6 2 1.04e-05
C4 7 2 8.44e-06
R1 3 4 4.11e-02
R2 4 5 6.39e-01
R3 5 6 5.76e+01
R4 6 7 9.00e+02
L1 1 3 6.62e-10
.ENDS

*$
